US04866076
Following the procedure of Example 1 to methyl-2-[[7-(3-chlorophenylsulphamoyl)-1,2,3,4-tetrahydroisoquinolin-2-yl]methyl]benzoate, substituting methyl-5-(chloromethyl)-2-furoate (1.75 g, 10 mmol) for methyl-2-(bromomethyl)benzoate and using corresponding proportions of other reagents, gave methyl-5-[[7-(3-chlorophenylsulphamoyl)-1,2,3,4-tetrahydroisoquinolin-2-yl]methyl]-2-furoate (2.86 g, 62%), m.pt. 167°-168° C. (from methanol).

reactant | methyl-2-[[7-(3-chlorophenylsulphamoyl)-1,2,3,4-tetrahydroisoquinolin-2-yl]methyl]benzoate | COC(C1=C(C=CC=C1)CN1CC2=CC(=CC=C2CC1)S(NC1=CC(=CC=C1)Cl)(=O)=O)=O | C24H23ClN2O4S
reactant | methyl-2-(bromomethyl)benzoate | COC(C1=C(C=CC=C1)CBr)=O | C9H9BrO2
reactant | methanol | CO | CH4O
product | methyl-5-[[7-(3-chlorophenylsulphamoyl)-1,2,3,4-tetrahydroisoquinolin-2-yl]methyl]-2-furoate | 2.86 g, 62% | COC(=O)C=1OC(=CC1)CN1CC2=CC(=CC=C2CC1)S(NC1=CC(=CC=C1)Cl)(=O)=O | C22H21ClN2O5S
